US05556864
2-(4-Phenylbutyl)phenol
The whole of this 1-(2-benzyloxyphenyl)-4-phenylbutadiene was mixed with 300 ml of ethanol, and the mixture was stirred at 60° C. for 5 hours in an atmosphere of hydrogen and in the presence of 1 g of 5% w/w palladium-on-charcoal. At the end of this time, the catalyst was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 8:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 8.34 g (yield 94.4%) of the title compound as a colorless solid.

reactant | 1-(2-benzyloxyphenyl)-4-phenylbutadiene | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC=CC1=CC=CC=C1 | C23H20O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(4-Phenylbutyl)phenol | 8.34 g, yield 94.4% | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
